US07262201B1
Using a procedure analogous to that described in Example 15, 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (140 mg, 0.435 mol), (prepared as described for the starting material in Example 15), was reacted with 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one (100 mg, 0.52 mol), (prepared as described for the starting material in Example 10), to give 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(5-(4-methoxyphenyl)pyrazol-3-yl)quinazoline (174 mg, 84%).

reactant | 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 0.435 mol, 140 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one | 0.52 mol, 100 mg | COC1=CC=C(C=C1)C1=NNC(C1)=O | C10H10N2O2
product | 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(5-(4-methoxyphenyl)pyrazol-3-yl)quinazoline | 174 mg, 84% | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)C1=NNC(=C1)C1=CC=C(C=C1)OC | C26H29N5O3
